US07842694B2
3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-1,3-thiazol-2-ylbenzamide
Cesium carbonate (0.478 g, 1.47 mmol) was added to a mixture of 3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-hydroxy-N-1,3-thiazol-2-ylbenzamide (200 mg, 0.49 mmol), bromotris(triphenylphosphine)copper (46 mg, 0.049 mmol) and 2-(azetidin-1-ylcarbonyl)-5-bromopyridine (130 mg, 5.39 mmol) in DMA (5.0 mL) and the stirred mixture heated at 160° C. in a ‘Biotage initiator Microwave’ for 3 hours. The mixture was allowed to reach RT and pressure and was partitioned between ethyl acetate (50 mL) and water (50 mL). The ethyl acetate layer was separated, washed with water (5×50 mL), brine (50 mL), dried (MgSO4) and evaporated to a residue which was chromatographed on silica, eluting with a gradient of 0-100% ethyl acetate in isohexane, to give the desired compound. (47 mg).

reactant | Cesium carbonate | 1.47 mmol, 0.478 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-hydroxy-N-1,3-thiazol-2-ylbenzamide | 0.49 mmol, 200 mg | CC(C)(C)[Si](OC[C@H](C)OC=1C=C(C(=O)NC=2SC=CN2)C=C(C1)O)(C)C | C19H28N2O4SSi
reactant | 2-(azetidin-1-ylcarbonyl)-5-bromopyridine | 5.39 mmol, 130 mg | N1(CCC1)C(=O)C1=NC=C(C=C1)Br | C9H9BrN2O
solvent | DMA | 5.0 mL | CC(=O)N(C)C | C4H9NO
product | 3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-1,3-thiazol-2-ylbenzamide | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC=2SC=CN2)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C | C28H36N4O5SSi
